US07037910B2
1D. Preparation of 3-Chloro-4,5-bis(4-chlorophenyl)pyridazine
4,5-Bis(4-chlorophenyl)pyridazin-3(2H)-one (16.5 g, 52.2 mmol) was suspended in toluene (50 mL). To the resultant solution was added pyridine (8.3 mL, 104.4 mmol), followed by the addition of POCl3 (14.3 mL, 156.6 mmol). The reaction mixture was placed in an oil bath preheated at 110° C. After 4 h, the reaction mixture was cooled to RT, then poured over 500 g ice to quench the excess POCl3. The dark mixture was extracted with EtOAc (2×300 mL). The combined organic layers were washed with water (500 mL), and filtered through a silica gel pad (˜50 g). The filtrate was concentrated under reduced pressure to give the title compound, 3-chloro-4,5-bis(4-chlorophenyl)pyridazine as a pale colored solid (16.0 g, 92%). MS: M+H=335. 1H NMR (CDCl3, 500 MHz): δ 9.24(1H, s), 7.35 (2H, d, J=10 Hz), 7.26 (2H, d, J=10.0 Hz), 7.08–7.16 (4H, m).

reactant | 4,5-Bis(4-chlorophenyl)pyridazin-3(2H)-one | 52.2 mmol, 16.5 g | ClC1=CC=C(C=C1)C=1C(NN=CC1C1=CC=C(C=C1)Cl)=O | C16H10Cl2N2O
reactant | pyridine | 104.4 mmol, 8.3 mL | N1=CC=CC=C1 | C5H5N
reactant | POCl3 | 156.6 mmol, 14.3 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 3-chloro-4,5-bis(4-chlorophenyl)pyridazine | 16.0 g, 92% | ClC=1N=NC=C(C1C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C16H9Cl3N2
